US05409926
6-Amino-2-isopropyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one
6-Nitro-2-isopropyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4-(3H)-one was hydrogenated overnight at 1 atm H2 in dioxane solution in presence of Raney nickel catalyst as described above. The product was purified by flash chromatography over silica gel eluting with CH2Cl2 /MeOH-20/1 to give a pale yellow solid. 1H-NMR (CDCl3): 1.20, (d, 6H, J=6.4 Hz), 2.89-3.06, (m, 1H), 5.34, (br.s, 2H), 6.85-7.68, (m, 24H), 7.84-7.92, (m, 1H).

reactant | 6-Nitro-2-isopropyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4-(3H)-one | [N+](=O)([O-])C=1C=C2C(N(C(=NC2=CC1)C(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H35N7O3
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 6-Amino-2-isopropyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one | NC=1C=C2C(N(C(=NC2=CC1)C(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H37N7O
